US05391571
Thionyl chloride (11.9 ml, 163 mmol) was added under a nitrogen atmosphere to a suspension of 2-methoxy-5-phenoxybenzaldehyde oxime (3.96 g, 16.3 mmol) in 75 ml of benzene. There was a slight exotherm and the mixture turned yellow. The reaction was heated to reflux temperature over 1 hour and at reflux temperature for an additional hour. The solvent and excess thionyl chloride were removed under reduced pressure to give 2-methoxy-5-phenoxybenzonitrile as a light tan crystalline solid (3.66 g, 100% ), mp 88°-89° C.

reactant | Thionyl chloride | 163 mmol, 11.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxy-5-phenoxybenzaldehyde oxime | 16.3 mmol, 3.96 g | COC1=C(C=NO)C=C(C=C1)OC1=CC=CC=C1 | C14H13NO3
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 2-methoxy-5-phenoxybenzonitrile | COC1=C(C#N)C=C(C=C1)OC1=CC=CC=C1 | C14H11NO2
